US04804661
A solution of 4.65 g of 4-chlorobenzoyl chloride in 50 ml of methylene chloride is added dropwise, over a period of 10 minutes, to a solution, stirred at room temperature, of 5 g of 1-[2-(4-chlorophenyl)-ethyl]-piperazine in 75 ml of methylene chloride. The reaction mixture is heated under reflux for 5 minutes, allowed to stand at room temperature for 1 hour and then concentrated by evaporation. The residue is made into a slurry with hot acetone and, after the addition of hexane, the whole is filtered. 1-[2-(4-chlorophenyl)-ethyl]-4-(4-chlorobenzoyl)-piperazine is obtained and can be purified and characterised via the hydrochloride which has a melting point of 254°-254.5° (decomposition).

reactant | 4-chlorobenzoyl chloride | 4.65 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | 1-[2-(4-chlorophenyl)-ethyl]-piperazine | 5 g | ClC1=CC=C(C=C1)CCN1CCNCC1 | C12H17ClN2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-chlorophenyl)-ethyl]-4-(4-chlorobenzoyl)-piperazine | ClC1=CC=C(C=C1)CCN1CCN(CC1)C(C1=CC=C(C=C1)Cl)=O | C19H20Cl2N2O
